US07553836B2
Step A. Preparation of 4-(4-chlorophenyl)-N-(3-methoxy-4-(1H-1,2,4-triazol-1-yl)phenyl)-1H-pyrrole-2-carboxamide
3-Methoxy-4-(1H-1,2,4-triazol-1-yl)benzenamine, prepared as described in Bioorg. Med. Chem. Lett. 2003, 13, 2059, was converted to the title compound (45 mg) by acylation with 4-(4-chlorophenyl)-1H-pyrrole-2-carboxylic acid (30 mg) following the procedure described in step C of Example 1. MS (ESI) 394 (M+H)+.

reactant | 3-Methoxy-4-(1H-1,2,4-triazol-1-yl)benzenamine | COC=1C=C(C=CC1N1N=CN=C1)N | C9H10N4O
reactant | 4-(4-chlorophenyl)-1H-pyrrole-2-carboxylic acid | 30 mg | ClC1=CC=C(C=C1)C=1C=C(NC1)C(=O)O | C11H8ClNO2
product | 4-(4-chlorophenyl)-N-(3-methoxy-4-(1H-1,2,4-triazol-1-yl)phenyl)-1H-pyrrole-2-carboxamide | 45 mg | ClC1=CC=C(C=C1)C=1C=C(NC1)C(=O)NC1=CC(=C(C=C1)N1N=CN=C1)OC | C20H16ClN5O2
